US07547691B2
(B). Preparation of 2-[5-chloro-2-(3-piperidin-4-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-6-carboxylic acid methylamide
4-(3-Aminopropyl)-piperidine-1-carboxylic acid tert-butyl ester (0.72 g, 3.0 mmol) is added to a stirred suspension of 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-6-carboxylic acid methylamide (0.40 g, 1.2 mmol) and diisopropylethylamine (0.38 g, 3.0 mmol) in anhydrous 1,4-dioxane (15 mL) at room temperature under nitrogen. The resultant mixture is heated in an oil bath at 90° C. for 12 hours. At room temperature, the mixture is concentrated and the resultant solid is washed with diethyl ether (20 mL) to give a yellow solid. The solid is suspended in dichloromethane (5 mL), followed by the successive addition of triethylsilane (0.7 mL) and TFA (4 mL). The resultant yellow solution is stirred for 2 hours. After concentration to dryness, the crude product is dissolved in MeOH (20 mL)/dichloromethane (10 mL) and the solution is treated in portions with 2N LiOH (4.2 mL) to form a suspension. After concentration and subsequent chromatography on silica gel, eluting with 2.0 M NH3/MeOH in dichloromethane 0-10%, the title compound is obtained as a yellow solid (0.26 g, yield 49%). ES+(m/z) 444 (35Cl) and 446 (37Cl) [M+H].

reactant | 4-(3-Aminopropyl)-piperidine-1-carboxylic acid tert-butyl ester | 3.0 mmol, 0.72 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN | C13H26N2O2
reactant | 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-6-carboxylic acid methylamide | 1.2 mmol, 0.40 g | CNC(=O)C=1C=CC2=C(SC(=C2)C2=NC(=NC=C2Cl)Cl)C1 | C14H9Cl2N3OS
reactant | diisopropylethylamine | 3.0 mmol, 0.38 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triethylsilane | 0.7 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-[5-chloro-2-(3-piperidin-4-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-6-carboxylic acid methylamide | CNC(=O)C=1C=CC2=C(SC(=C2)C2=NC(=NC=C2Cl)NCCCC2CCNCC2)C1 | C22H26ClN5OS
